US04843075
To a mixture of 1.7 g of 2-(4-chlorophenyl)-9-methyl-2,3,4,4a-tetrahydro-5H-(1)benzothiopyrano[4,3-c]pyridazin-3-one in 30 ml of acetic acid is added 1.2 g of bromine dropwise with stirring at 40°-50° C. on a water bath. After the completion of addition, the mixture is stirred at 50° C. for 3 hours and poured into an excess amount of water. The precipitated crystals are collected by filtration and recrystallized from acetic acid to give 0.5 g of 2-(4-chlorophenyl)-9-methyl-2,3-dihydro-5H-(1)benzothiopyrano[4,3-c]pyridazin-3-one, melting at 200°-206° C., as a yellow powder.

reactant | 2-(4-chlorophenyl)-9-methyl-2,3,4,4a-tetrahydro-5H-(1)benzothiopyrano[4,3-c]pyridazin-3-one | 1.7 g | ClC1=CC=C(C=C1)N1N=C2C(CC1=O)CSC1=C2C=C(C=C1)C | C18H15ClN2OS
reactant | bromine | 1.2 g | BrBr | Br2
reactant | water | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-(4-chlorophenyl)-9-methyl-2,3-dihydro-5H-(1)benzothiopyrano[4,3-c]pyridazin-3-one | 0.5 g | ClC1=CC=C(C=C1)N1N=C2C(=CC1=O)CSC1=C2C=C(C=C1)C | C18H13ClN2OS
